US05580986
4-Acetyl-5-amino-1-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)pyrazole
0.56 g (3 mmol) 3-Chloro-2-hydrazino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine was dissolved in 5 ml ethanol and treated with 0.42 g (3 mmol) 2-ethoxymethylen-3-oxobutyronitrile. After heating under reflux for 3 hours, the mixture was concentrated and the residue purified by silica gel chromatography (hexane/ethyl acetate 1:1).

reactant | 3-Chloro-2-hydrazino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine | 3 mmol, 0.56 g | ClC=1C(=NN2C1CCCC2)NN | C7H11ClN4
reactant | 2-ethoxymethylen-3-oxobutyronitrile | 3 mmol, 0.42 g | C(C)OC=C(C#N)C(C)=O | C7H9NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Acetyl-5-amino-1-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)pyrazole | C(C)(=O)C=1C=NN(C1N)C1=NN2C(CCCC2)=C1Cl | C12H14ClN5O
